US06417192B1
To methyl 2-((5-pyrimidyl)methyl)-3-methoxyacrylate (9.0 g) was added, with stirring, a solution of sodium hydroxide (3.5 g) in water (43 ml) at RT under argon. After 20 h, the pH of the solution was brought to 3.5 with concentrated hydrochloric acid. Sonication of the oil so formed gave 2-((5-pyrimidyl)methyl)-3-methoxyacrylic acid (5.4 g) as a pale yellow solid.

reactant | methyl 2-((5-pyrimidyl)methyl)-3-methoxyacrylate | 9.0 g | N1=CN=CC(=C1)CC(C(=O)OC)=COC | C10H12N2O3
reactant | sodium hydroxide | 3.5 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 43 ml | O | H2O
product | 2-((5-pyrimidyl)methyl)-3-methoxyacrylic acid | 5.4 g | N1=CN=CC(=C1)CC(C(=O)O)=COC | C9H10N2O3
